US05187286
a) 2-pentylbenzyl alcohol
245 ml of a 1.6 molar butyllithium solution in hexane is instilled in a solution of 20.0 g of 2-methylbenzyl alcohol in 185 ml of ether under argon, so that the temperature does not exceed 10° C. Then, it is refluxed for 5 hours, allowed to cool off to 24° C., 22.4 g of 1-bromobutane is instilled and it is stirred for 16 hours at 24° C. The reaction mixture is added to 100 ml of water and extracted three times with 100 ml of ether each. The organic phase is washed with brine, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue is chromatographed on silica gel with hexane/0-30% of ethyl acetate. 20.1 g o the title compound is obtained as a colorless oil.

reactant | butyllithium | 1.6 molar | C(CCC)[Li]
reactant | 2-methylbenzyl alcohol | 20.0 g | CC1=C(CO)C=CC=C1 | C8H10O
reactant | 1-bromobutane | 22.4 g | BrCCCC | C4H9Br
reactant | water | 100 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 185 ml | CCOCC | C4H10O
product | 2-pentylbenzyl alcohol | C(CCCC)C1=C(CO)C=CC=C1 | C12H18O
